Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Latex, Natural Rubber
 
Attending: ___.
 
Chief Complaint:
Morbid Obesity
 
Major Surgical or Invasive Procedure:
Laparoscopic Gastric Sleeve

 
History of Present Illness:
___ has class III morbid obesity with a BMI of
___: Bari BMI: 40.9. 
She has attempted multiple weight loss programs and diet
modifications.  She has a history of depression and anxiety and
PTSD but is currently not seeing a therapist. 

She has had an UGI from ___ was a normal study with no
gastroesophageal reflux and no hiatal hernia. 
She has had an U/S from  ___ noted the liver parenchyma to
be normal as well as the contour being smooth.  The gallbladder
was normal with no gallstones or gallbladder wall thickening.

EGD on ___ noted normal mucosa of the entire stomach with
no evidence of ulcer, hiatal hernia or esophagitis.  Pathology
Report was noted for chronic inactive gastritis, stain for
Helicobacter pylori was negative.

However she had a recent work up for H. Pylori which was
positive. She was therapy for 2 weeks and has completed her
course. She will be seeing her GI physician for follow up this
___. 

She is not on anticoagulation but has a history of questionable
LLE swelling but work up with duplex was negative. She was also
on OCP which she was instructed to stop. 

She has a history of soft tissue swelling and had them excised 
on
the right lower extremity. 

 
Past Medical History:
PEPTIC ULCER DISEASE, recurrent H pylori                         
                  
POLYCYSTIC OVARIES                                    
beta thalassemia trait
CF CARRIER AND BETA THAL TRAIT - FOB NEG                        
OBESITY                                                          
                             
LACTOSE INTOLERANCE                                             
HEMATOCHEZIA                                                    
IRRITABLE BOWEL SYNDROME                                        
MIGRAINE HEADACHES                                              
ANXIETY                                                         
GLUTEN SENSITIVITY                                              
DEPRESSION                                                       
                                                    
H/O PELVIC INFLAMMATORY DISEASE 
 
Social History:
Country of Origin:  ___                                         
Marital status:     Married, # years: ___                        
Children:           Yes: 3- ages ___, ___, ___                      
Work: ___
Sexual activity:    Present                                     
Sexual orientation: Male                                        
Domestic violence:  Denies                                      
Contraception:      Sterilization - tubal ligation; OCPs        
Contraception       tubes tied                                  
comments:                                                       
Tobacco use:        Never smoker                                
Alcohol use:        Present                                     
drinks per week:    ___                                         
Alcohol use         socially once per month                     
comments:                                                       
Recreational drugs  Denies                                      
(marijuana, heroin,                                             
crack pills or                                                  
other):                                                         
Depression:         Patient already being treated for depression
Depression comments:denies depression/ follows psych            
Exercise:           Activities: just started gym treadmill      
                    eliptical                                   
Seat belt/vehicle   Always                                      
restraint use:                                                  

Comments:           does sometimes text and drive               
 
Family History:
Relative Status   Age Problem              Onset Comments       
Mother                HYPERTHYROIDISM                           
                      THYROID NODULE                            

Father                HYPERLIPIDEMIA                            

Uncle                 DIABETES MELLITUS                         

PGM      Deceased     STROKE                                    

Aunt                  STROKE                                    

PGF                   PROSTATE CANCER
 
Physical Exam:
AVSS
General: comfortable and well-appearing
Ophtho: blurry vision up close, but normal vision at a distance
Neuro: CN ___ intact. No weakness or numbness in bilateral 
upper and lower extremities. 
CV: warm and well perfused
R: breathing comfortably on room air, conversing easily on room 
air 
Abd: binder in place. soft, nondistended, appropriately tender. 
ecchymosis near right lateral port - stable, no tenderness to 
palpation surrounding ecchymosis, no hematoma on palpation. 
Dressing clean, dry, intact
 
Brief Hospital Course:
Ms ___ is a ___ female with morbid obesity who underwent a 
laparoscopic sleeve gastrectomy on ___.  There were no 
adverse events in the operating room; please see the operative 
note for details. Pt was extubated, taken to the PACU until 
stable, then transferred to the ward for observation.  
Neuro: The patient was alert and oriented throughout 
hospitalization; pain was managed with a preoperative TAP block 
and postoperative ketorolac, gabapentin and acetaminophen; 
opioid medication was used only for severe breakthrough pain 
prn. She reported some blurry vision POD1 when looking at phone, 
but vision gradually improved after removal of scopolamine 
patch. She was given instructions to follow up with PCP for 
vision changes. 
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.  
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization.  
GI/GU/FEN: The patient was initially kept NPO. Afterwards, the 
patient was started on a stage 1 bariatric diet, which the 
patient tolerated well. Subsequently, the patient was advanced 
to stage 2,  which the patient was tolerating on day of 
discharge.  
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.  
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.  
At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable. The patient was tolerating a 
bariatric stage 2 diet, ambulating, voiding without assistance, 
and pain was well controlled. The patient received discharge 
teaching and follow-up instructions with understanding 
verbalized and agreement with the discharge plan.  
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. MetFORMIN (Glucophage) 500 mg PO BID 
2. Fluticasone Propionate NASAL 2 SPRY NU ASDIR 
3. albuterol sulfate 90 mcg/actuation inhalation Q6H:PRN 
shortness of breath 

 
Discharge Medications:
1.  Acetaminophen (Liquid) 650 mg PO Q6H:PRN Pain - Mild/Fever 
RX *acetaminophen 500 mg/15 mL 15 ml by mouth five times a day 
Disp #*1 Bottle Refills:*1 
2.  Famotidine 20 mg PO BID 
RX *famotidine [Acid Controller] 20 mg 1 tablet(s) by mouth 
twice a day Disp #*60 Tablet Refills:*0 
3.  MetFORMIN (Glucophage) 250 mg PO BID  
4.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN SOB  
5.  albuterol sulfate 90 mcg/actuation inhalation Q6H:PRN 
shortness of breath  
6.  Fluticasone Propionate NASAL ___ SPRY NU DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Morbid Obesity

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

You have undergone a laparoscopic sleeve gastrectomy, recovered 
in the hospital and are now prepared for discharge to home with 
the following instructions:

Please call your surgeon or return to the Emergency Department 
if you develop a fever greater than ___ F, shaking chills, chest 
pain, difficulty breathing, pain with breathing, cough, a rapid 
heartbeat, dizziness, severe abdominal pain, pain unrelieved by 
your pain medication, a change in the nature or severity of your 
pain, severe nausea, vomiting, abdominal bloating, severe 
diarrhea, inability to eat or drink, foul smelling or colorful 
drainage from your incisions, redness, swelling from your 
incisions, or any other symptoms which are concerning to you.  

Diet: Stay on Stage II diet until your follow up appointment; 
this stage was previously called stage III and consists of 
protein shakes, sugar free smooth pudding/ yogurt, etc; please 
refer to your work book for detailed instructions. Do not self- 
advance your diet and avoid drinking with a straw or chewing 
gum. To avoid dehydration, remember to sip small amounts of 
fluid frequently throughout the day to reach a goal of 
approximately ___ mL per day. Please note the following signs 
of dehydration: dry mouth, rapid heartbeat, feeling dizzy or 
faint, dark colored urine, infrequent urination.  

Medication Instructions:  
Please refer to the medication list provided with your discharge 
paperwork for detailed instruction regarding your home and newly 
prescribed medications.  
Some of the new medications you will be taking include:  
1. Pain medication: You will receive a prescription for liquid 
acetaminophen (Tylenol), do not exceed 3000 mg per 24 hour 
period.  
2. Antacids: You will be taking famotidine tablets, 20 mg twice 
daily, for one month. This medicine reduces stomach acid 
production. Please crush.  
3. You must not use NSAIDS (non-steroidal anti-inflammatory 
drugs) unless approved by your Weight Loss Surgery team. 
Examples include, but are not limited to Aleve, Arthrotec, 
aspirin, Bufferin, diclofenac, Ecotrin, etodolac, ibuprofen, 
Indocin, indomethacin, Feldene, ketorolac, meclofenamate, 
meloxicam, Midol, Motrin, nambumetone, Naprosyn, Naproxen, 
Nuprin, oxaprozin, Piroxicam, Relafen, Toradol and Voltaren. 
These agents may cause bleeding and ulcers in your digestive 
system. If you are unclear whether a medication is considered an 
NSAID, please ask call your nurse or ask your pharmacist.  
4. Vitamins/ minerals: You may resume a chewable multivitamin, 
however, please discuss when to resume additional vitamin and 
mineral supplements with your bariatric dietitian. 
 
Activity:  
You should continue walking frequently throughout the day right 
after surgery; you may climb stairs.  
You may resume moderate exercise at your discretion, but avoid 
performing abdominal exercises or lifting items greater than10 
to 15 pounds for six weeks.  

Wound Care:  
You may remove any remaining gauze from over your incisions. You 
will have thin paper strips (Steri-Strips) over your incision; 
please, remove any remaining Steri-Strips seven to 10 days after 
surgery.  
You may shower 48 hours following your surgery; avoid scrubbing 
your incisions and gently pat them dry. Avoid tub baths or 
swimming until cleared by your surgeon. You may wear your 
abdominal binder as needed for comfort.  
If there is clear drainage from your incisions, cover with 
clean, dry gauze.  
Please call the doctor if you have increased pain, swelling, 
redness, cloudy, bloody or foul smelling drainage from the 
incision sites.  
Avoid direct sun exposure to the incision area for up to 24 
months.  
Do not use any ointments on the incision unless you were told 
otherwise.  

Please follow up with PCP for vision changes. 
 
Followup Instructions:
___